US04307028
Preparation of sodium isooctyloxy-carbonyl-methylthioxanthate
In a double-walled glass reactor equipped with a stirring system, a thermometer, an equilibrated bromine ampoule and a condenser surmounted with a gas-lock, 108.2 g of a 35.26% aqueous solution of sodium trithiocarbonate (0.25 mole), 50 ml of methanol and 25.3 g of water were placed. 51.5 g of isooctylchloroacetate (0.25 mole) diluted in 25 ml of methanol was then added dropwise, while maintaining the temperature of the reaction mixture from 15° to 20° C. At the end of the addition, the mixture was stirred for 1 hour at the same temperature. A two-phase mixture was obtained.

reactant | bromine | BrBr | Br2
reactant | sodium trithiocarbonate | 0.25 mole | C([S-])([S-])=S.[Na+].[Na+]
reactant | water | 25.3 g | O | H2O
reactant | isooctylchloroacetate | 0.25 mole, 51.5 g | C(CCCCC(C)C)OC(CCl)=O | C10H19ClO2
reactant | methanol | 25 ml | CO | CH4O
reactant | methanol | 50 ml | CO | CH4O
product | sodium isooctyloxy-carbonyl-methylthioxanthate | C(CCCCC(C)C)OC(=O)S(C(=S)[S-])C.[Na+] | InChI=1S/C11H22O2S3.Na/c1-9(2)7-5-4-6-8-13-10(12)16(3)11(14)15;/h9,16H,4-8H2,1-3H3,(H,14,15);/q;+1/p-1
